US08809352B2
To a solution of 8-[1-(4′-Chloro-biphenyl-2-yl)-ethyl]-1,4-dioxa-8-aza-spiro[4.5]decane (3.1 g, 8.66 mmol) in dioxane-water (1:1 60 mL) is added HCl 37% (10.5 mL, 346 mmol). The reaction is then heated up to 85° C. for 26 hours. The solvent is then removed under vacuum and the aqueous phase is basified to pH=9 using sodium hydroxide 4N and then extracted with DCM. The organic layer is then washed with brine. The combined organic phase is then dried on MgSO4 and concentrated to afford 1-[1-(4′-Chloro-biphenyl-2-yl)-ethyl]-piperidin-4-one. The crude material is used without further purification. Found m/z ES+=314.2 (M+H); 1H NMR (400 MHz, CDCl3) δ 7.57 (1H, d, J=7.1 Hz), 7.32 (1H, t), 7.30 (2H, d, J=8.6 Hz), 7.22 (1H, t), 7.15 (2H, d, J=8.6 Hz), 7.09 (1H, d, J=6.1 Hz), 3.58 (1H, m), 2.63 (2H, m), 2.52 (2H, m), 2.25 (4H, t, J=6.1 Hz), 1.24 (3H, d, J=6.6 Hz).

reactant | 8-[1-(4′-Chloro-biphenyl-2-yl)-ethyl]-1,4-dioxa-8-aza-spiro[4.5]decane | 8.66 mmol, 3.1 g | ClC1=CC=C(C=C1)C1=C(C=CC=C1)C(C)N1CCC2(OCCO2)CC1 | C21H24ClNO2
reactant | HCl | 346 mmol, 10.5 mL | Cl | ClH
solvent | dioxane water | 60 mL | O1CCOCC1.O
product | 1-[1-(4′-Chloro-biphenyl-2-yl)-ethyl]-piperidin-4-one | ClC1=CC=C(C=C1)C1=C(C=CC=C1)C(C)N1CCC(CC1)=O | C19H20ClNO
